US07538123B2
While cooling on ice, 0.61 g of potassium t-butoxide was added to 20 ml of a tetrahydrofuran suspension containing 2.28 g of (methoxymethyl)triphenylphosphonium chloride under nitrogen atmosphere. The obtained mixture was stirred for 5 minutes. Thereafter, 600 mg of 2-methoxy-1-naphthaldehyde was added to the reaction solution while cooling on ice. The obtained mixture was stirred at the same temperature for 20 minutes. The reaction solution was diluted with ethyl acetate, and then washed with water and a saturated sodium chloride aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate), so as to obtain 667 mg of 2-methoxy-1-(2-methoxyvinyl)naphthalene containing a small amount of triphenylphosphine. This compound was used in the next reaction without further purification.

reactant | potassium t-butoxide | 0.61 g | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | (methoxymethyl)triphenylphosphonium chloride | 2.28 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 2-methoxy-1-naphthaldehyde | 600 mg | COC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methoxy-1-(2-methoxyvinyl)naphthalene | 667 mg | COC1=C(C2=CC=CC=C2C=C1)C=COC | C14H14O2
